US07569582B2
1.8 g of N-8-azabicyclo[3.2.1]oct-3-yl-N-cyclohexyl-N′,N′-diethylurea are dissolved in 70 ml of dichloromethane in the presence of 1.75 g of Boc-D-4-chlorophenylalanine, of 0.79 g of hydroxybenzotriazole, of 1.12 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and of 1.02 ml of diisopropylethylamine. The mixture is stirred at ambient temperature for 16 h. After evaporation to dryness, the residue is hydrolysed and extracted with ethyl acetate until the aqueous phase is completely depleted. The organic phase is washed with H2O and then with a saturated aqueous sodium chloride solution. After drying over MgSO4 and concentration to dryness, the crude is chromatographed on silica gel, elution being carried out with a 99/1 mixture of dichloromethane and methanol, to give 1.42 g of tert-butyl [(1R)-1-(4-chlorobenzyl)-2-(3-{cyclohexyl[(di-ethylamino)carbonyl]amino}-8-azabicyclo[3.2.1]oct-8-yl)-2-oxoethyl]carbamate.

reactant | N-8-azabicyclo[3.2.1]oct-3-yl-N-cyclohexyl-N′,N′-diethylurea | 1.8 g | C12CC(CC(CC1)N2)N(C(=O)N(CC)CC)C2CCCCC2 | C18H33N3O
reactant | Boc-D-4-chlorophenylalanine | 1.75 g | CC(C)(C)OC(=O)N[C@H](CC1=CC=C(C=C1)Cl)C(=O)O | C14H18ClNO4
reactant | hydroxybenzotriazole | 0.79 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.12 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 1.02 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | tert-butyl [(1R)-1-(4-chlorobenzyl)-2-(3-{cyclohexyl[(di-ethylamino)carbonyl]amino}-8-azabicyclo[3.2.1]oct-8-yl)-2-oxoethyl]carbamate | 1.42 g | ClC1=CC=C(C[C@H](C(=O)N2C3CC(CC2CC3)N(C(=O)N(CC)CC)C3CCCCC3)NC(OC(C)(C)C)=O)C=C1 | C32H49ClN4O4
